US05855812
Preparation of 5-Hexyloxy-2-[4-(5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)pentyloxy)phenyl]pyrimidine
A 500 mL flask was charged with 5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopentane (18.6 g, 32 mmol; prepared from 1,5-dibromopentane and 2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethanol), 5-hexyloxy-2-(4 -hydroxyphenyl)pyrimidine (8.0 g, 29.4 mmol), potassium carbonate (5.4 g, 39 mmol), and acetonitrile (200 mL), and the resulting mixture was stirred and refluxed overnight under nitrogen. Toluene (150 mL) and water (150 mL) were added to the refluxed mixture. The resulting toluene layer was collected and residual water removed by distillation using a Dean-Stark apparatus. The toluene layer was then filtered through a pad of silica gel and the toluene removed under reduced pressure. The crude product was further purified by distillation using a Kugelrohr apparatus (b.p. 210°- 25° C. at 0.3 torr)

reactant | 5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopentane | 32 mmol, 18.6 g | FC(C(C(OC(C(OC(COCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C13H12BrF15O3
reactant | 5-hexyloxy-2-(4 -hydroxyphenyl)pyrimidine | 29.4 mmol, 8.0 g | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O2
reactant | potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | water | 150 mL | O | H2O
solvent | Toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Hexyloxy-2-[4-(5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)pentyloxy)phenyl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H31F15N2O5
